US08802678B2
To a solution of 3.75 g (9.3 mmol) of 3-{4-[2-(1,4-dioxaspiro[4.5]dec-8-yl)ethyl]piperazin-1-yl}benzoic acid ethyl ester in 20 mL of ethanol are added 10.2 mL of an aqueous 1N sodium hydroxide solution. Stirring is maintained overnight. The mixture is cooled and 2.55 mL (10.2 mmol) of 4N hydrochloric acid solution are added. After evaporation under reduced pressure, the solid is taken off with ethyl acetate, filtered and dried at 50° C. under vacuum to give 3.7 g of crude 3-{4-[2-(1,4-dioxaspiro[4.5]dec-8-yl)ethyl]piperazin-1-yl}benzoic acid.

reactant | 3-{4-[2-(1,4-dioxaspiro[4.5]dec-8-yl)ethyl]piperazin-1-yl}benzoic acid ethyl ester | 9.3 mmol, 3.75 g | C(C)OC(C1=CC(=CC=C1)N1CCN(CC1)CCC1CCC2(OCCO2)CC1)=O | C23H34N2O4
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | 10.2 mmol, 4N, 2.55 mL | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-{4-[2-(1,4-dioxaspiro[4.5]dec-8-yl)ethyl]piperazin-1-yl}benzoic acid | 3.7 g | O1CCOC12CCC(CC2)CCN2CCN(CC2)C=2C=C(C(=O)O)C=CC2 | C21H30N2O4
